US05834463
10-Benzyl-1,2,3,4,10,11a-hexahydro-11H-dibenzo [b,e][1,4]diazepin-11-one
Using 1,2,3,4,10,11a-hexahydro-11H-dibenzo [b,e][1,4]diazepin-11-one and benzyl bromide, the titled compound was synthesized in substantially the same procedure as in Working Example 4. Yield 66%. m.p. 123°-125° C. (ethanol-hexane).

reactant | 1,2,3,4,10,11a-hexahydro-11H-dibenzo [b,e][1,4]diazepin-11-one | C1CCCC2=NC3=C(NC(C21)=O)C=CC=C3 | C13H14N2O
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol hexane | C(C)O.CCCCCC
product | 10-Benzyl-1,2,3,4,10,11a-hexahydro-11H-dibenzo [b,e][1,4]diazepin-11-one | Yield 66% | C(C1=CC=CC=C1)N1C2=C(N=C3C(C1=O)CCCC3)C=CC=C2 | C20H20N2O
